### PR TITLE
dirac measure

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

Tentative dirac measure.

~~TODO: doc and changelog~~ DONE

TODO: change the statement of `integral_dirac` to
```
Lemma integral_dirac (f : T -> \bar R) (mf : measurable_fun D f) :
  \int_ D (f x) 'd (\d_ a)[x] = (\1_D a)%:E * f a.
```
as part of PR #620 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
  (do not edit former entries, only append new ones, be careful:
   merge and rebase have a tendency to mess up `CHANGELOG_UNRELEASED.md`)
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/lebesgue_integral.v [hunk 1]
```diff
@@ -516,6 +518,51 @@ HB.instance Definition _ D (mD : measurable D) :
 End nnsfun_functions.
 Arguments nnsfun0 {T R}.
 
+Section measure_dirac.
+Local Open Scope ereal_scope.
+Variables (T : measurableType) (a : T) (R : realType).
+
+Definition measure_dirac' (A : set T) : \bar R := (\1_A a)%:E.
```
Comment (CohenCyril) [inline theories/lebesgue_integral.v:525]: `dirac` for the function and `measure_dirac` for the measure. (let's try to keep the code `'` free)

**Comment by affeldt-aist** [comment]
Note that the presentation of the theory of this commit will certainly be changed by https://github.com/math-comp/analysis/pull/646 but not the proof so it is still relevant to review it first.

**Comment by affeldt-aist** [comment]
Note that the presentation of the theory of this commit will certainly be changed by https://github.com/math-comp/analysis/pull/646 but not the proof so it is still relevant to review it first.

File: theories/lebesgue_integral.v [hunk 2]
```diff
@@ -514,6 +518,71 @@ HB.instance Definition _ D (mD : measurable D) :
...
 
+Section measure_dirac.
+Local Open Scope ereal_scope.
+Variables (T : measurableType) (a : T) (R : realType).
+
+Definition dirac (A : set T) : \bar R := (\1_A a)%:E.
+
+Let dirac0 : dirac set0 = 0. Proof. by rewrite /dirac indic0. Qed.
+
+Let dirac_ge0 B : 0 <= dirac B. Proof. by rewrite /dirac lee_fin. Qed.
```
Comment (proux01) [inline theories/lebesgue_integral.v:529]:
```suggestion
Variables (T : measurableType) (a : T) (R : realFieldType).

Definition dirac (A : set T) : \bar R := (\1_A a)%:E.

Let dirac0 : dirac set0 = 0. Proof. by rewrite /dirac indic0. Qed.

Let dirac_ge0 B : 0 <= dirac B. Proof. by rewrite /dirac indicE. Qed.
```

File: theories/lebesgue_integral.v [hunk 3]
```diff
@@ -2243,6 +2312,83 @@ Qed.
...
+  - by move=> x _ m n mn; rewrite lee_fin; exact/lefP/ndf_.
+rewrite (_ : (fun _ => _) = (fun n => (f_ n a)%:E)).
+  by apply/cvg_lim => //; exact: f_f.
+apply/funext => n; under eq_integral do rewrite fimfunE -sumEFin.
+rewrite ge0_integral_sum//; last 2 first.
+  - move=> r; apply/EFin_measurable_fun.
+    apply: measurable_funM => //; first exact: measurable_fun_cst.
+    apply: (@measurable_funS _ _ setT) => //.
+    by rewrite (_ : \1_ _ = mindic R (measurable_sfunP (f_ n) r)).
+  - by move=> r x _; rewrite muleindic_ge0.
```
Comment (proux01) [inline theories/lebesgue_integral.v:2371]: indentation
```suggestion
rewrite ge0_integral_sum//; last 2 first.
- move=> r; apply/EFin_measurable_fun.
  apply: measurable_funM => //; first exact: measurable_fun_cst.
  apply: (@measurable_funS _ _ setT) => //.
  by rewrite (_ : \1_ _ = mindic R (measurable_sfunP (f_ n) r)).
- by move=> r x _; rewrite muleindic_ge0.
```

File: theories/lebesgue_integral.v [hunk 4]
```diff
@@ -2243,6 +2312,83 @@ Qed.
...
+rewrite /= (big_fsetD1 (f_ n a))/=; last first.
+  by rewrite in_fset_set// in_setE; exists a.
+rewrite integral_indic//= /dirac indicE mem_set// mule1.
+rewrite big1_fset ?adde0// => r; rewrite !inE => /andP[rfna _] _.
+rewrite integral_indic//= /dirac indicE memNset ?mule0//.
+by apply/not_andP; left; exact/nesym/eqP.
+Qed.
+
+Lemma integral_dirac (f : T -> \bar R) (mf : measurable_fun D f) :
+  D a -> \int_ D (f x) 'd (\d_ a)[x] = f a.
```
Comment (proux01) [inline theories/lebesgue_integral.v:2382]: Couldn't this be generalized to something like?
```Coq
\int_ D (f x) 'd (\d_ a)[x] = (\1_D a)%:E * f a.
```

**Review by proux01 — COMMENTED** [review]
LGTM, sorry for those late reviews

**Comment by proux01** [comment]
BTW, the dirac measure should probably be in `measure.v` rather than `lebesgue_integral.v` (it seems to be just a matter of requiring `numfun` to get `\1_`)

**Comment by affeldt-aist** [comment]
> LGTM, sorry for those late reviews

Definitely no problem. Thank you very much!

**Comment by proux01** [comment]
Updated CHANGELOG, will merge once CI is green.

File: theories/measure.v [hunk 5]
```diff
@@ -1379,6 +1381,71 @@ Canonical pushforward_measure : {measure set T2 -> \bar R} :=
...
+Unshelve. all: by end_near. Qed.
+
+Canonical dirac_measure : {measure set T -> \bar R} :=
+  Measure.Pack _ (Measure.Axioms dirac0 dirac_ge0 dirac_sigma_additive).
+
+End dirac_measure.
+Arguments dirac {T} _ {R}.
+Arguments dirac_measure {T} _ {R}.
+
+Notation "\d_ a" := (dirac_measure a) : ring_scope.
```
Comment (CohenCyril) [inline theories/measure.v:1419]: I'm worried that this notation is bound to `dirac_measure` instead of `dirac`... it looks unstable to me.

Comment (CohenCyril) [inline theories/measure.v:1419]: I'm worried that this notation is bound to `dirac_measure` instead of `dirac`... it looks unstable to me.

Comment (affeldt-aist) [reply theories/measure.v:1419]: Indeed. This is an oversight. This will anyway disappear once PR #646 is rebased.
